US07417046B2
To a solution of 3-(4-chloro-3-methyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (18.26 g, 53 mmol) and epichlorohydrin (41.12 mL, 526 mmol) in DMF (100 mL) was added cesium carbonate (20.56 g, 63 mmol). The reaction mixture was allowed to stir for 72 h, diluted with EtOAc (200 mL) and washed with saturated NaHCO3 and brine. The organic layer was dried over Na2SO4, concentrated and purified by column chromatography (silica, 20% acetone/CH2Cl2) to afford 3-(4-chloro-3-methyl-phenyl)-1-oxiranyl methyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (12.0 g, 57%). TLC (silica, 20% acetone/CH2Cl2): Rf=0.68. MS (electrospray) m/z 491.2 (491.2, calculated for C27H31ClN6O, [M+H]+). 1H NMR (400 MHz, CDCl3) 7.55 (s, 1H), 7.36 (m, 2H), 4.61 (m, 2H), 4.38-4.47 (m, 1H), 4.11 (dd, J=14.3, 5.7 Hz, 1H), 3.67-3.79 (m, 2H), 3.34 (m, 1H), 2.83 (t, J=4.5 Hz, 1H), 2.75 (m, 2H), 2.51 (m, 1H), 2.41 (s, 3H), 1.48 (s, 9H).

reactant | 3-(4-chloro-3-methyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 53 mmol, 18.26 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN=C2C2=CC(=C(C=C2)Cl)C | C18H22ClN3O2
reactant | epichlorohydrin | 526 mmol, 41.12 mL | C(Cl)C1CO1 | C3H5ClO
reactant | cesium carbonate | 63 mmol, 20.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-(4-chloro-3-methyl-phenyl)-1-oxiranyl methyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 12.0 g, 57% | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(N=C2C2=CC(=C(C=C2)Cl)C)C2OC2)C | C21H26ClN3O3
